US07329683B2
2-Azacycloundecanone (0.87 g) was dissolved in 20 mL methylene chloride and stirred at room temperature under nitrogen. 1.5 g Trimethyloxonium tetrafluoroborate was added and the reaction stirred overnight. The mixture was added to saturated aqueous sodium bicarbonate and extracted with methylene chloride (2×). The combined organic layers were washed with brine, dried over magnesium sulfate, and the solvent evaporated to provide crude 2-methoxyazacyclododec-1-ene.

reactant | 2-Azacycloundecanone | 0.87 g | C1(NCCCCCCCCC1)=O | C10H19NO
reactant | Trimethyloxonium tetrafluoroborate | 1.5 g | F[B-](F)(F)F.C[O+](C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxyazacyclododec-1-ene | COC1=NCCCCCCCCCC1 | C12H23NO
